### PR TITLE
[Merged by Bors] - feat(InfiniteSum): zero function has product zero

### PR DESCRIPTION
**Pull request by b-mehta**
Prove that in a comm monoid with zero, the product of the zero function is zero.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 1]
```diff
@@ -759,11 +759,22 @@ lemma hasProd_zero_of_exists_eq_zero (hf : ∃ b, f b = 0) [L.LeAtTop] : HasProd
...
   exact (Finset.prod_eq_zero (Finset.singleton_subset_iff.mp hs) hb).symm
 
+lemma hasProd_zero_zero [Nonempty β] [L.LeAtTop] : HasProd (fun _ ↦ 0 : β → α) 0 L := by
+  obtain ⟨b⟩ := ‹Nonempty β›
+  exact hasProd_zero_of_exists_eq_zero ⟨b, by simp⟩
+
 lemma multipliable_of_exists_eq_zero (hf : ∃ b, f b = 0) [L.LeAtTop] : Multipliable f L :=
   ⟨0, hasProd_zero_of_exists_eq_zero hf⟩
 
+lemma multipliable_zero [Nonempty β] [L.LeAtTop] : Multipliable (fun _ ↦ 0 : β → α) L :=
```
Comment (plp127) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: This shouldn't need `[Nonempty β]` since you can use `multipliable_empty`

Comment (b-mehta) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: good point!

**Review by j-loreaux — COMMENTED** [review]
bors merge
